US07393569B2
6-chlorohexanol (800 g) was added to anhydrous acetic acid (1,200 mL) cooled to 10° C. in an ice bath, and then pyridine (934 g) was dropped for 10 minutes. After the completion of dropping, they were refluxed for 2 hours. The reaction mixture was poured into water and toluene was further added and stirred. After neutralization the toluene layer with an aqueous saturated solution of sodium carbonate, it was washed with a small amount of water and further dried over anhydrous magnesium sulfate. Toluene and unreacted ingredients were distilled off from the toluene layer to obtain concentrates. The concentrates were purified by distillation under a reduced pressure to obtain 6-acetoxy chlorohexane (983 g). The boiling point was 82° C./5.3 hPa.

reactant | 6-chlorohexanol | 800 g | ClCCCCCCO | C6H13ClO
reactant | acetic acid | 1,200 mL | C(C)(=O)O | C2H4O2
reactant | pyridine | 934 g | N1=CC=CC=C1 | C5H5N
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 6-acetoxy chlorohexane | 983 g | C(C)(=O)OCCCCCCCl | C8H15ClO2
